US04948804
5-(3-methylbutoxy)-pyrrolidin-2-one
5.5 g of 5-ethoxy-pyrrolidin-2-one, 30 cm3 of 3-methyl-butanol and 2.75 g of Amberlite-15 resin are agitated for 5 hours at ambient temperature. After leaving in the refrigerator for 18 hours, there is obtained, after filtering, 4.1 g of the expected product. m.p. 73°-75° C.

reactant | 5-ethoxy-pyrrolidin-2-one | 5.5 g | C(C)OC1CCC(N1)=O | C6H11NO2
reactant | 3-methyl-butanol | 30 cm3 | CC(CCO)C | C5H12O
product | 5-(3-methylbutoxy)-pyrrolidin-2-one | CC(CCOC1CCC(N1)=O)C | C9H17NO2
